US09062034B2
(a) methyl 1-[(5-chloro-thiophen-2-yl)-carbonylamino]-3,4-epoxy-cyclopentane-1-carboxylate
A mixture of 0.85 g (2.9 mmol) methyl 1-[(5-chloro-thiophen-2-yl)-carbonylamino]-cyclopent-3-ene-1-carboxylate and 20 ml methylene chloride is combined with 0.92 g 70% meta-chloroperbenzoic acid at 0° C. and stirred for 3 h at room temperature. The mixture is washed with sat. Sodium hydrogen carbonate solution and concentrated.

reactant | methyl 1-[(5-chloro-thiophen-2-yl)-carbonylamino]-cyclopent-3-ene-1-carboxylate | 2.9 mmol, 0.85 g | ClC1=CC=C(S1)C(=O)NC1(CC=CC1)C(=O)OC | C12H12ClNO3S
reactant | meta-chloroperbenzoic acid | 0.92 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | methyl 1-[(5-chloro-thiophen-2-yl)-carbonylamino]-3,4-epoxy-cyclopentane-1-carboxylate | ClC1=CC=C(S1)C(=O)NC1(CC2C(C1)O2)C(=O)OC | C12H12ClNO4S
